US09233098B2
3. Preparation of 2-[1-[4-(2,4-difluorobenzamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetic acid
Ethyl 2-[1-[4-(2,4-difluorobenzamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetate (213 mg, 0.456 mmol) was dissolved in tetrahydrofuran (15 mL), and in an ice bath 10 mL aqueous solution dissolving lithium hydroxide monohydrate (58 mg, 1.38 mmol) was added. It was reacted at room temperature for 3 h, and the reaction was monitored to be complete by TLC. Water was added into the system, and adjusted to pH≈3-4 with diluted hydrochloric acid. A solid precipitated, which was filtered and dried to obtain a white solid 180 mg, at a yield of 89.9%.

reactant | Ethyl 2-[1-[4-(2,4-difluorobenzamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetate | 0.456 mmol, 213 mg | FC1=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=C(C=C34)F)CC(=O)OCC)C=C2)C=CC(=C1)F | C25H20F3N3O3
reactant | lithium hydroxide monohydrate | 1.38 mmol, 58 mg | O.[OH-].[Li+]
reactant | Water | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | 2-[1-[4-(2,4-difluorobenzamido)benzyl]-6-fluoro-1H-indazol-3-yl]acetic acid | 180 mg, yield of 89.9% | FC1=C(C(=O)NC2=CC=C(CN3N=C(C4=CC=C(C=C34)F)CC(=O)O)C=C2)C=CC(=C1)F | C23H16F3N3O3
